US08039469B2
To a solution of 4-aminobenzamide (5.0 g, 36.7 mmol) and pyridine (2.9 g, 36.7 mmol)) in dry CH2Cl2 (100 mL) at −10° C., phenyl chloroformate (6.9 g, 44.1 mmol) was added dropwise, stirred at −10° C. for 30 min and then at room temperature for 30 minutes The reaction mixture was diluted with CH2Cl2 (100 mL) and washed with water (2×70 mL). The organic layer was dried over anhydrous Na2SO4 and concentrated to get the crude product. The crude product was dissolved in diethyl ether (15 mL) and sonicated for 10 minutes and then pentane (30 mL) was added, the resulting solid was filtered and washed with pentane to give phenyl 4-carbamoylphenylcarbamate (7.2 g, 77% yield).

reactant | 4-aminobenzamide | 36.7 mmol, 5.0 g | NC1=CC=C(C(=O)N)C=C1 | C7H8N2O
reactant | pyridine | 36.7 mmol, 2.9 g | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 44.1 mmol, 6.9 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | pentane | 30 mL | CCCCC | C5H12
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
product | phenyl 4-carbamoylphenylcarbamate | 7.2 g, 77% yield | C(N)(=O)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C14H12N2O3
